US06147255
(a) 4-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2-pyrrolecarboxaldehyde
In a similar manner to Example 3(b), by reaction of 5.9 g (25.6 mmol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylboronic acid with 3.7 g (21.3 mmol) of 4-bromo-2-pyrrolecarboxaldehyde, 1.3 g (21.6%) of the expected product are obtained, with a melting point of 211-2° C.

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylboronic acid | 25.6 mmol, 5.9 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)B(O)O)C | C14H21BO2
reactant | 4-bromo-2-pyrrolecarboxaldehyde | 21.3 mmol, 3.7 g | BrC=1C=C(NC1)C=O | C5H4BrNO
product | 4-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2-pyrrolecarboxaldehyde | 1.3 g, 21.6% | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=1C=C(NC1)C=O)C | C19H23NO
